US08685977B2
Methyl 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzoate
4-Chloro-3-(trifluoromethyl)phenol (1.19 g, 6.06 mmol), methyl 4-fluorobenzoate (0.934 g, 6.06 mmol) and potassium carbonate (2.51 g, 18.2 mmol) were stirred in dimethylsulfoxide (10 mL) at 120° C. overnight under an atmosphere of nitrogen. The temperature was then increased to 130° C. and the reaction mixture stirred for a further 17 hours. The reaction mixture was cooled to room temperature. Water (100 mL) was added and the mixture extracted with ethyl acetate (3×50 mL). The combined organic phase was washed sequentially with water (50 mL) and brine (50 mL), dried over magnesium sulphate, filtered and concentrated in vacuo to afford the title compound as a yellow oil (1.92 g, 96%, contains residual dimethylsulfoxide). This material was taken on crude in subsequent steps.

reactant | 4-Chloro-3-(trifluoromethyl)phenol | 6.06 mmol, 1.19 g | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | methyl 4-fluorobenzoate | 6.06 mmol, 0.934 g | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | potassium carbonate | 18.2 mmol, 2.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 100 mL | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | Methyl 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzoate | 1.92 g, 96% | ClC1=C(C=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)C(F)(F)F | C15H10ClF3O3
